US06110967
1-(2-Cyanoethyl)-4-nitroimidazole:
4-Nitroimidazole (6.87 g, 60 mmol), triethylamine (18.2 g, 180 mmol) and acrylonitrile (9.55 g, 180 mmol) were dissolved in N,N-dimethylformamide (100 ml), and the solution was stirred at 100° C. for 5 hours. The reaction mixture was concentrated under reduced pressure, and chloroform was added to the concentrate. Solids deposited were collected by filtration and dried to obtain 9.2 g of the title compound.

reactant | 4-Nitroimidazole | 60 mmol, 6.87 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | triethylamine | 180 mmol, 18.2 g | C(C)N(CC)CC | C6H15N
reactant | acrylonitrile | 180 mmol, 9.55 g | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-Cyanoethyl)-4-nitroimidazole | 9.2 g | C(#N)CCN1C=NC(=C1)[N+](=O)[O-] | C6H6N4O2
